US08026260B2
To a mixture of tert-butyl 4-bromobenzoate (10.07 g, 39.2 mmol), K3PO4 (20.19 g, 95 mmol), and dimethyl malonate (4.50 mL, 39.2 mmol) was added toluene (69 mL), Pd2(dba)3 (975 mg, 1.08 mmol), and P(tert-Bu)3 (12.8 mL, 10% wt. in hexanes, 4.3 mmol). The reaction mixture was degassed and heated to 85° C. After 2 d, the reaction mixture was diluted with ethyl acetate, washed with water (1×), brine (1 x), dried over MgSO4, filtered, and concentrated. Purification by flash column chromatography on silica gel (5% to 20% ethyl acetate in hexanes) gave dimethyl [4-(tert-butoxycarbonyl)phenyl]malonate as a low melting white solid: 1H NMR (600 MHz, CDCl3) δ 7.98 (d, J=8.5 Hz, 2H), 7.45 (d, J=8.2 Hz, 2H), 4.70 (s, 1H), 3.76 (s, 6H), 1.58 (s, 9H); ESIMS calcd 331.1 (M++Na), found 331.1 (M++Na).

reactant | tert-butyl 4-bromobenzoate | 39.2 mmol, 10.07 g | BrC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H13BrO2
reactant | K3PO4 | 95 mmol, 20.19 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | dimethyl malonate | 39.2 mmol, 4.50 mL | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | P(tert-Bu)3 | 4.3 mmol, 12.8 mL | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | Pd2(dba)3 | 1.08 mmol, 975 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 69 mL | C1(=CC=CC=C1)C | C7H8
product | dimethyl [4-(tert-butoxycarbonyl)phenyl]malonate | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)C(C(=O)OC)C(=O)OC | C16H20O6
